US07910740B2
(5-Methanesulfonyl-4,5,6,7-tetrahydro-thiazolo[5,4-c]pyridin-2-yl)-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine
The title compound was prepared in analogy to example 45 from 90 mg (0.2 mmol) [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-(4,5,6,7-tetrahydro-thiazolo[5,4-c]pyridin-2-yl)-amine trihydrochloride and 23 mg (0.2 mmol) methanesulfonyl chloride yielding 39 mg (46%) (5-methanesulfonyl-4,5,6,7-tetrahydro-thiazolo[5,4-c]pyridin-2-yl)-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine as a yellow solid. MS ISP (m/e): 420.1 (100) (M+H)+. 1H NMR (DMSO-D6, 250 MHz): δ (ppm)=10.38 (s, 1H), 7.65 (s, 1H), 7.48 (s, 1H), 7.30 (d, 1H), 7.25 (d, 1H), 7.02 (s, 1H), 4.34 (br s, 2H), 3.79 (s, 3H), 3.52 (t, 2H), 2.96 (s, 3H), 2.76 (br t, 2H), 2.14 (s, 3H).

reactant | [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-(4,5,6,7-tetrahydro-thiazolo[5,4-c]pyridin-2-yl)-amine trihydrochloride | 0.2 mmol, 90 mg | Cl.Cl.Cl.COC=1C=C(C=CC1N1C=NC(=C1)C)NC=1SC=2CNCCC2N1
reactant | methanesulfonyl chloride | 0.2 mmol, 23 mg | CS(=O)(=O)Cl | CH3ClO2S
product | (5-Methanesulfonyl-4,5,6,7-tetrahydro-thiazolo[5,4-c]pyridin-2-yl)-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine | CS(=O)(=O)N1CC2=C(CC1)N=C(S2)NC2=CC(=C(C=C2)N2C=NC(=C2)C)OC | C18H21N5O3S2
